US04927818
To a solution of 2-cyano-2-(1-ethoxycarbonyl-1-methylethoxyimino)acetamidine acetate (685 g) in methanol (6.85 l) was added triethylamine (557 g) at -13~-15° C. over a 20-minute period and then bromine (344 g) was added thereto at the same temperature over the same period. The solution was stirred at -13~-15° C. for 15 minutes, then N,N-dimethylformamide (685 ml) was added to the solution at the same temperature, and a solution of potassium thiocyanate (209 g) in methanol (2.09 l) was added thereto at -13~-15° C. over a 30-minute period. After being stirred at -5 ~0° C. for an hour, the solution was poured into a cold water (5 ~10° C.) and stirred for an hour under ice-cooling. The resulting precipitates were collected by filtration, washed with cold water and dried to give 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(l-ethoxycarbonyl-1-methylethoxyimino)acetonitrile (390 g).

reactant | 2-cyano-2-(1-ethoxycarbonyl-1-methylethoxyimino)acetamidine acetate | 685 g | C(C)(=O)O.C(#N)C(C(=N)N)=NOC(C)(C)C(=O)OCC
reactant | triethylamine | 557 g | C(C)N(CC)CC | C6H15N
reactant | bromine | 344 g | BrBr | Br2
reactant | potassium thiocyanate | 209 g | [S-]C#N.[K+]
solvent | methanol | 6.85 l | CO | CH4O
solvent | methanol | 2.09 l | CO | CH4O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 685 ml | CN(C=O)C | C3H7NO
product | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(l-ethoxycarbonyl-1-methylethoxyimino)acetonitrile | 390 g | NC1=NC(=NS1)C(C#N)=NOC(C)(C)C(=O)OCC | C10H13N5O3S
